.title KiCad schematic
.include "../../projects/kicad/bc337-40-300.lib"
Rb1 Net-_J1-Pad1_ diviseur 20Meg
Rb2 diviseur GND 100k
Re1 /E4 GND 1.2k
Rc1 Net-_J2-Pad1_ /C3 2.2k
R1 /B4 /C3 27k
R2 /B4 GND 22k
Rc2 Net-_J2-Pad1_ bascule 3.9k
VJ1 Net-_J1-Pad1_ GND pwl(0 0 60 500 120 0 180 500 240 0)
VJ2 Net-_J2-Pad1_ GND pwl(0 4 119 4 120 3.6)
R3 Net-_J1-Pad1_ entree 99Meg
R4 entree GND 1Meg
R7 Net-_J2-Pad1_ sortie 1.2k
R5 Net-_Q5-Pad2_ bascule 3.9k
R6 Net-_Q5-Pad2_ GND 2.2k
Q1 Net-_J2-Pad1_ diviseur Net-_Q1-Pad3_ QBC337-40
Q2 Net-_J2-Pad1_ Net-_Q1-Pad3_ /B3 QBC337-40
Q3 /C3 /B3 /E4 QBC337-40
Q4 bascule /B4 /E4 QBC337-40
Q5 sortie Net-_Q5-Pad2_ GND QBC337-40
.control
tran 0.5 240
run
wrdata build/schmittTrigger20Meg.data V(bascule) V(diviseur) V(entree) V(sortie)
.endc
.end
